US08372807B2
To a solution of ethyl 2-(naphthalen-1-yl)acetate (1 g, 4.7 mmol) in tetrahydrofuran (20 mL) at −78° C. was added LiHMDS (1M THF, 9.4 mL, 9.4 mmol) and the reaction mixture stirred at −78° C. for 1 hour. Acetic anhydride was then added (0.54 mL, 5.64 mmol) dropwise and the reaction allowed to warm to room temperature and stirred for 30 minutes. Aqueous HCl solution (1N, 25 mL) was added to the reaction mixture and then extracted with ethyl acetate, dried over sodium sulfate and concentrated to give compound ethyl 2-(naphthalen-1-yl)-3-oxobutanoate as a light yellow oil, that was used in the next step without further purification.

reactant | ethyl 2-(naphthalen-1-yl)acetate | 4.7 mmol, 1 g | C1(=CC=CC2=CC=CC=C12)CC(=O)OCC | C14H14O2
reactant | LiHMDS | 9.4 mmol, 1M, 9.4 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 2-(naphthalen-1-yl)-3-oxobutanoate | C1(=CC=CC2=CC=CC=C12)C(C(=O)OCC)C(C)=O | C16H16O3
